US05506234
a) 5-(2-Chlorobenzyl)-4-methoxymethyl-9-tosyl-β-carboline-3-carboxylic acid ethyl ester
0.744 g (0.0039 mol) of p-toluenesulfochloride is added under ice cooling to a solution of 1.2 g (0.0029 mol) of 5-(4-chlorobenzyl)-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester, 0.16 g (0.0013 mol) of dimethylaminopyridine and 0.54 ml (0.0039 mol) of triethylamine in 120 ml of dichloromethane. The reaction mixture is stirred for another 15 minutes under ice cooling and then for 2 hours at room temperature. Then it is diluted with dichloromethane, washed with water, dried and concentrated by evaporation. The evaporation residue is crystallized under trituration with ether. The yield is 1.36 g (82% of theory) of 5-(2-chlorobenzyl)-4-methoxymethyl-9-tosyl-β-carboline-3-carboxylic acid ethyl ester, melting point 140°-142° C.

reactant | p-toluenesulfochloride | 0.0039 mol, 0.744 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 5-(4-chlorobenzyl)-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester | 0.0029 mol, 1.2 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)CC1=CC=C(C=C1)Cl | C23H21ClN2O3
reactant | dimethylaminopyridine | 0.0013 mol, 0.16 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 0.0039 mol, 0.54 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 5-(2-Chlorobenzyl)-4-methoxymethyl-9-tosyl-β-carboline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=CC=2N(C3=CC=CC(=C3C2C1COC)CC1=C(C=CC=C1)Cl)S(=O)(=O)C1=CC=C(C)C=C1 | C30H27ClN2O5S
